US05596095
To a cooled (-80° C.) solution of neopentyl 5-bromonaphthalene-2-sulfonate (300 mg; 0.84 mmol) in anhydrous ether (12 mL) is added tert-butyllithium (1.7M in ether) (1 mL; 1.7 mmol), immediately followed by a solution of dimethylformamide (125 mg; 1.7 mmol) in ether (2 mL). The external cooling bath is removed and stirring is allowed to proceed for 1 hour. The reaction mixture is quenched with water (10 mL), the two solution phases are separated and the aqueous phase is extracted with ether (2×10 mL). The combined organic phase is dried (MgSO4), filtered and concentrated under reduced pressure to afford crude neopentyl 5-methylnaphthalene-2-sulfonate.

reactant | neopentyl 5-bromonaphthalene-2-sulfonate | 0.84 mmol, 300 mg | BrC1=C2C=CC(=CC2=CC=C1)S(=O)(=O)OCC(C)(C)C | C15H17BrO3S
reactant | tert-butyllithium | 1.7 mmol, 1.7M, 1 mL | C(C)(C)(C)[Li]
reactant | dimethylformamide | 1.7 mmol, 125 mg | CN(C=O)C | C3H7NO
solvent | ether | 12 mL | CCOCC | C4H10O
solvent | ether | 2 mL | CCOCC | C4H10O
product | neopentyl 5-methylnaphthalene-2-sulfonate | CC1=C2C=CC(=CC2=CC=C1)S(=O)(=O)OCC(C)(C)C | C16H20O3S
